US07396847B2
(5R)-3-(5-Bromopyrid-2-yl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one
(5S)-5-(Aminomethyl)-3-(5-bromopyrid-2-yl)-1,3-oxazolidin-2-one (4.54 g, 16.7 mM) was dissolved in methanol (100 ml). Diisopropylethylamine (5.86 g, 20.9 mM) was added and the reaction was cooled to 0° in an ice bath. Toluenesulfonic acid 2-(2,2-dichloro-1-methylethylidene)hydrazide (5.86 g, 20.9 mM) was added to give an orange solution. The reaction was stirred overnight while slowly warming to room temperature. The desired product precipitated as a yellow solid (4.10 g) and was filtered.

reactant | (5S)-5-(Aminomethyl)-3-(5-bromopyrid-2-yl)-1,3-oxazolidin-2-one | 16.7 mM, 4.54 g | NC[C@H]1CN(C(O1)=O)C1=NC=C(C=C1)Br | C9H10BrN3O2
reactant | Diisopropylethylamine | 20.9 mM, 5.86 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Toluenesulfonic acid 2-(2,2-dichloro-1-methylethylidene)hydrazide | 20.9 mM, 5.86 g | ClC(C(C)=NNS(=O)(=O)C=1C(=CC=CC1)C)Cl | C10H12Cl2N2O2S
solvent | methanol | 100 ml | CO | CH4O
product | (5R)-3-(5-Bromopyrid-2-yl)-5-[(4-methyl-1H-1,2,3-triazol-1-yl)methyl]-1,3-oxazolidin-2-one | BrC=1C=CC(=NC1)N1C(O[C@H](C1)CN1N=NC(=C1)C)=O | C12H12BrN5O2
